.title KiCad schematic
R36 Net-_R33-Pad2_ /OUT 100k
R33 Net-_R31-Pad2_ Net-_R33-Pad2_ 100k
XU3 Net-_R31-Pad2_ Net-_R24-Pad2_ GND -15V GND Net-_R33-Pad2_ /OUT +15V OPA2134d
XU2 Net-_R17-Pad1_ Net-_R13-Pad1_ Net-_R7-Pad2_ -15V Net-_R10-Pad1_ Net-_R14-Pad1_ Net-_R18-Pad1_ +15V OPA2134d
XU1 Net-_R15-Pad1_ Net-_R11-Pad1_ Net-_R3-Pad2_ -15V Net-_R5-Pad2_ Net-_R12-Pad1_ Net-_R16-Pad1_ +15V OPA2134d
R39 /OUT Net-_J10-PadT_ 1k
XJ10 GND Net-_J10-PadT_ NC_01 OUT
R31 Net-_R24-Pad2_ Net-_R31-Pad2_ 100k
R24 /MIX_1 Net-_R24-Pad2_ 100k
R25 /MIX_2 Net-_R24-Pad2_ 100k
R26 /MIX_3 Net-_R24-Pad2_ 100k
R27 /MIX_4 Net-_R24-Pad2_ 100k
R22 Net-_R18-Pad1_ Net-_J9-PadT_ 1k
XJ9 GND Net-_J9-PadT_ /MIX_4 OUT_4
R21 Net-_R17-Pad1_ Net-_J8-PadT_ 1k
XJ8 GND Net-_J8-PadT_ /MIX_3 OUT_3
R20 Net-_R16-Pad1_ Net-_J7-PadT_ 1k
XJ7 GND Net-_J7-PadT_ /MIX_2 OUT_2
R18 Net-_R18-Pad1_ Net-_R14-Pad1_ 100k
R10 Net-_R10-Pad1_ GND 47k
R9 /IN_4 Net-_R10-Pad1_ 47k
R14 Net-_R14-Pad1_ /IN_4 100k
XRV4 GND Net-_R10-Pad1_ /IN_4 voltage_divider_4
XJ5 GND /IN_4 NC_02 IN_4
R17 Net-_R17-Pad1_ Net-_R13-Pad1_ 100k
R8 Net-_R7-Pad2_ GND 47k
R7 /IN_3 Net-_R7-Pad2_ 47k
R13 Net-_R13-Pad1_ /IN_3 100k
XRV3 GND Net-_R7-Pad2_ /IN_3 voltage_divider_3
XJ4 GND /IN_3 NC_03 IN_3
R16 Net-_R16-Pad1_ Net-_R12-Pad1_ 100k
R6 Net-_R5-Pad2_ GND 47k
R5 /IN_2 Net-_R5-Pad2_ 47k
R12 Net-_R12-Pad1_ /IN_2 100k
XRV2 GND Net-_R5-Pad2_ /IN_2 voltage_divider_2
XJ3 GND /IN_2 NC_04 IN_2
R15 Net-_R15-Pad1_ Net-_R11-Pad1_ 100k
R4 Net-_R3-Pad2_ GND 47k
R3 /IN_1 Net-_R3-Pad2_ 47k
R11 Net-_R11-Pad1_ /IN_1 100k
XRV1 GND Net-_R3-Pad2_ /IN_1 voltage_divider_1
R19 Net-_R15-Pad1_ Net-_J6-PadT_ 1k
XJ6 GND Net-_J6-PadT_ /MIX_1 OUT_1
XJ2 GND /IN_1 NC_05 IN_1
D2 GND Net-_D2-Pad2_ LED2
R29 +5V Net-_Q1-Pad3_ 5k
R23 Net-_D1-Pad1_ /IN_1 100
D6 GND Net-_D6-Pad2_ LED2
R34 +5V Net-_Q3-Pad3_ 5k
R32 Net-_D5-Pad1_ /IN_2 100k
D10 GND Net-_D10-Pad2_ LED2
R40 +5V Net-_Q5-Pad3_ 5k
R38 Net-_D9-Pad1_ /IN_3 100k
D4 GND Net-_D4-Pad2_ LED2
R30 +5V Net-_Q2-Pad3_ 5k
R28 Net-_D3-Pad1_ /IN_4 100k
D8 GND Net-_D8-Pad2_ LED1
R37 +5V Net-_Q4-Pad3_ 5k
R35 Net-_D7-Pad1_ /OUT 100k
D9 Net-_D9-Pad1_ GND D1N4148
D5 Net-_D5-Pad1_ GND D1N4148
D1 Net-_D1-Pad1_ GND D1N4148
D3 Net-_D3-Pad1_ GND D1N4148
D7 Net-_D7-Pad1_ GND D1N4148
Q1 Net-_Q1-Pad3_ Net-_D1-Pad1_ Net-_D2-Pad2_ BC846B
Q3 Net-_Q3-Pad3_ Net-_D5-Pad1_ Net-_D6-Pad2_ BC846B
Q5 Net-_Q5-Pad3_ Net-_D9-Pad1_ Net-_D10-Pad2_ BC846B
Q2 Net-_Q2-Pad3_ Net-_D4-Pad2_ Net-_D3-Pad1_ BC846B
Q4 Net-_Q4-Pad3_ Net-_D7-Pad1_ Net-_D8-Pad2_ BC846B
.end
